US05438050
8 g (24.4 mmole) 1,3,3a,4,7,7a-hexahydro-1,3-dioxo-5,6-bis(trimethylsiloxy)-isoindole and 11.4 g (80 mmole) 4-chlorophenyl hydrazine are boiled under reflux for 16 hours in 50 ml methanol and 50 ml glacial acetic acid. The crystals precipitated out after cooling are filtered off, after-washed several times with methanol, and dried. One obtains 5-[(4-chlorophenyl)-azo]-6-[N'-(4-chlorophenyl)-hydrazino]-1,3,3a,4,7,7a-hexahydro-1,3-dioxoisoindole in the form of yellow-green crystals.

reactant | 1,3,3a,4,7,7a-hexahydro-1,3-dioxo-5,6-bis(trimethylsiloxy)-isoindole | 24.4 mmole, 8 g | O=C1NC(C2CC(=C(CC12)O[Si](C)(C)C)O[Si](C)(C)C)=O | C14H25NO4Si2
reactant | 4-chlorophenyl hydrazine | 80 mmole, 11.4 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-[(4-chlorophenyl)-azo]-6-[N'-(4-chlorophenyl)-hydrazino]-1,3,3a,4,7,7a-hexahydro-1,3-dioxoisoindole | ClC1=CC=C(C=C1)N=NC=1CC2C(NC(C2CC1NNC1=CC=C(C=C1)Cl)=O)=O | C20H17Cl2N5O2
